US05374454
A potassium phenanthridine (radical-anion complex) solution is prepared by adding about 3.5 g phenanthridine and about 0.75 g potassium metal to about 20 ml of monoglyme yielding a red-colored product. A sample of PTFE, PFA and RO2800 each immersed for 3 minutes in this bath show surface discoloration indicative of chemical modification as discussed hereinabove.

reactant | phenanthridine | about 3.5 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | potassium | about 0.75 g | [K] | K
solvent | monoglyme | about 20 ml | C(OC)COC | C4H10O2
product | potassium phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12.[K] | InChI=1S/C13H9N.K/c1-2-6-11-10(5-1)9-14-13-8-4-3-7-12(11)13;/h1-9H;
